US06727264B1
2-METHYL-N-(3-{1-[3-(4-PYRIDINYL)PROPYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure O and Scheme W using 3-(4-pyridinyl)-1-propanol and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 366.2 (M+H)+.

reactant | 3-(4-pyridinyl)-1-propanol | N1=CC=C(C=C1)CCCO | C8H11NO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-(3-{1-[3-(4-PYRIDINYL)PROPYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCC1=CC=NC=C1)C | C23H31N3O
